US06239077B1
4-Chlorophenol (10 g), chloroacetone (10.8 g), anhydrous potassium carbonate (12.9 g) and potassium iodide (1.3 g) were added to acetone (100 ml) and heated under reflux for 6 hours. The reaction mixture was filtered and the filtrate was concentrated to obtain 4-chlorophenoxyacetone (14 g).

reactant | 4-Chlorophenol | 10 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | chloroacetone | 10.8 g | ClCC(C)=O | C3H5ClO
reactant | potassium carbonate | 12.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.3 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-chlorophenoxyacetone | 14 g | ClC1=CC=C(OCC(C)=O)C=C1 | C9H9ClO2
